US06225510B1
In similar manner, although optimal conditions may vary, hydrogen peroxide may be reacted with methyl t-amyl ether to provide t-amyl hydroperoxide or di-t-amyl peroxide; with methyl t-hexyl ether to provide t-hexyl hydroperoxide or di-t-hexyl peroxide; with ethyl t-butyl ether to provide t-butyl hydroperoxide or di-t-butyl peroxide; with ethyl t-amyl ether to provide t-amyl hydroperoxide or di-t-amyl peroxide; with ethyl t-hexyl ether to provide t-hexyl hydroperoxide or di-t-hexyl peroxide; with n-propyl t-butyl ether to provide t-butyl hydroperoxide or di-t-butyl peroxide; with n-propyl t-amyl ether to provide t-amyl hydroperoxide or di t-amyl peroxide; or with n-propyl t-hexyl ether to provide t-hexyl hydroperoxide or di-t-hexyl peroxide. Illustrative of reactions employing hydroperoxide reactants are the reaction of t-butyl hydroperoxide with methyl t-butyl ether to provide di-t-butyl peroxide; the reaction of t-hexyl hydroperoxide with methyl t-hexyl ether to provide di-t-hexyl peroxide; the reaction of t-butyl hydroperoxide with methyl t-amyl ether to provide t-butyl t-amyl peroxide; the reaction of t-butyl hydroperoxide with methyl t-hexyl ether to provide t-butyl t-hexyl peroxide; and the reaction of t-amyl hydroperoxide with ethyl t-hexyl ether to provide t-amyl t-hexyl peroxide.

reactant | t-hexyl hydroperoxide | C(C)(C)(CCC)OO | C6H14O2
reactant | methyl t-hexyl ether | C(C)(C)(CCC)OC | C7H16O
product | di-t-hexyl peroxide | C(C)(C)(CCC)OOC(C)(C)CCC | C12H26O2
